US09024027B2
To a solution of tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (501 mg, 1.414 mmol) in dry DMF (15 ml) maintained under nitrogen atmosphere, K2CO3 (391 mg, 2.83 mmol) and 4-(2-chloroethyl)morpholine hydrochloride (526 mg, 2.83 mmol) were added, and the mixture was stirred at 60° C. for 3 hours. The solid was filtered off, the solvent was evaporated and the resulting crude was purified by filtration on a silica gel cartridge (DCM/MeOH 9/1), obtaining tert-butyl 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (570 mg, 1.22 mmol, 86% yield, MS/ESI+ 468.2 [MH]+).

reactant | tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.414 mmol, 501 mg | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
reactant | K2CO3 | 2.83 mmol, 391 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 2.83 mmol, 526 mg | Cl.ClCCN1CCOCC1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.22 mmol, 570 mg, 86% yield | O1CCN(CC1)CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C21H29N3O7S
